US08030334B2
6-Chloro-1-methyl-indole-2-boronic acid and 2-(5-bromo-pyridin-3-ylmethyl)-isoindole-1,3-dione are processed according to the method described in Example 100 to give 2-[5-(6-chloro-1-methyl-1H-indol-2-yl)-pyridin-3-ylmethyl]isoindole-1,3-dione. MS (ESI) m/z 402.1 (M+H)+.

reactant | 6-Chloro-1-methyl-indole-2-boronic acid | ClC1=CC=C2C=C(N(C2=C1)C)B(O)O | C9H9BClNO2
reactant | 2-(5-bromo-pyridin-3-ylmethyl)-isoindole-1,3-dione | BrC=1C=C(C=NC1)CN1C(C2=CC=CC=C2C1=O)=O | C14H9BrN2O2
product | 2-[5-(6-chloro-1-methyl-1H-indol-2-yl)-pyridin-3-ylmethyl]isoindole-1,3-dione | ClC1=CC=C2C=C(N(C2=C1)C)C=1C=C(C=NC1)CN1C(C2=CC=CC=C2C1=O)=O | C23H16ClN3O2
